US06303593B1
1-Butyloxycarbonyl (cis)-3-(chloroacetoxy)-4-(3-phenylpropyl)piperidine
To a solution of 0.242 g (0.75 mmol) of 1-butyloxycarbonyl (trans)-3-hydroxy4-(3-phenylpropyl)piperidine, 0.189 g (1.5 mmol) of chloroacetic acid, and 0.524 g (1.5 mmol) of triphenylphosphine in 5 mL of THF at 0° C. was slowly added 0.348 g (1.5 mmol) of diethylazodicarboxylate (DEAD). The reaction mixture was allowed to warm to rt and was stirred for 16 h. To the reaction mixture was added 20 mL of ether and it was filtered through a thin pad of celite. The filtrate was washed with sat'd NaHCO3 solution and sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl acetate, 1:1) to give the title compound.

reactant | 1-butyloxycarbonyl (trans)-3-hydroxy4-(3-phenylpropyl)piperidine | 0.75 mmol, 0.242 g | C(CCC)OC(=O)N1C[C@H]([C@@H](CC1)CCCC1=CC=CC=C1)O | C19H29NO3
reactant | chloroacetic acid | 1.5 mmol, 0.189 g | ClCC(=O)O | C2H3ClO2
reactant | triphenylphosphine | 1.5 mmol, 0.524 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.5 mmol, 0.348 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 1-Butyloxycarbonyl (cis)-3-(chloroacetoxy)-4-(3-phenylpropyl)piperidine | C(CCC)OC(=O)N1C[C@H]([C@H](CC1)CCCC1=CC=CC=C1)OC(CCl)=O | C21H30ClNO4
